US05480873
5-(4,5-Diacetoxy-9,10-dihydro-9,10-dioxoanthracen-2-yl)tetrazole
5-(9,10-Dihydro-4,5-dihydroxy-9,10-dioxoanthracen-2-yl)tetrazole (160.0 g) was coated with concentrated sulphuric acid (300 g) and then acetic anhydride (6 liters) added. The mixture was stirred under a nitrogen purge at room temperature for 3 hours. The solid present was isolated by filtration and pulled dry. The isolated solid was then slurried in ice for 10 minutes. The material was re-isolated, washed with water and then pulled dry. The yellow/green solid was then dried in vdcuo at 25° C., m.p. 189°-190° C.

reactant | 5-(9,10-Dihydro-4,5-dihydroxy-9,10-dioxoanthracen-2-yl)tetrazole | 160.0 g | OC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)O)=O)C1=NN=NN1 | C15H8N4O4
reactant | sulphuric acid | 300 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic anhydride | 6 liters | C(C)(=O)OC(C)=O | C4H6O3
product | 5-(4,5-Diacetoxy-9,10-dihydro-9,10-dioxoanthracen-2-yl)tetrazole | C(C)(=O)OC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)OC(C)=O)=O)C1=NN=NN1 | C19H12N4O6
